US04367335
Reaction of 3-(3-bromopropyl)-2,4-thiazolidinedione with 1-(3-methylphenyl)piperazine according to the procedure of Example I(c) affords 3-[3-[4-(3-METHYLPHENYL)-1-PIPERAZINYL]PROPYL]-2,4-THIAZOLIDINEDIONE.

reactant | 3-(3-bromopropyl)-2,4-thiazolidinedione | BrCCCN1C(SCC1=O)=O | C6H8BrNO2S
reactant | 1-(3-methylphenyl)piperazine | CC=1C=C(C=CC1)N1CCNCC1 | C11H16N2
product | 3-[3-[4-(3-METHYLPHENYL)-1-PIPERAZINYL]PROPYL]-2,4-THIAZOLIDINEDIONE | CC=1C=C(C=CC1)N1CCN(CC1)CCCN1C(SCC1=O)=O | C17H23N3O2S
